* AD8066 Spice Model
* Description: Amplifier
* Generic Desc: Dual low-cost high-speed FET input amp
* Developed by: VC
* Revision History: 08/10/2012 - Updated to new header style
* 1.0
* Copyright 2012 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement.
* Use of this model indicates your acceptance with the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled:
*       Distortion is not characterized
*
* Parameters modeled include:
*       Open loop gain and phase vs. frequency
*       Output impedance vs. frequency
*       Output clamping voltage and current
*       FET Input common mode range
*       Slew rate
*       Output currents are reflected to V supplies
*       Vos is static and will not vary
*
* END Notes
*
* Node assignments
*              non-inverting input
*              | inverting input
*              | | positive supply
*              | | |  negative supply
*              | | |  |  output
*              | | |  |  |
.SUBCKT AD8066 1 2 99 50 30

* FET INPUT STAGE
Vos 9 2 1.5m
Cd 1 2 4.5p
Ccm1 1 0 2.1p
Ccm2 2 0 2.1p
J1 5 1 10 NMOD  
J2 6 9 11 NMOD 
R3 99 5 1132 
R4 99 6 1132
R5 10 4 390
R6 11 4 390
I11 4 50 0.87e-3

* COMMON-MODE GAIN NETW0RK
*POLE AT 40 MHz
Ecm 80 15 POLY(2) 2 15 1 15 0 .5 .5 
*C4 82 85 3.54e-12
*R8 80 82 1k

*ZERO AT 40 kHz
Gcm1 15 81 80 15 4e-6
Lcm1 81 82 2e-3
Rcm1 82 15 1k

*ZERO AT 40 MHz
*Gcm2 15 83 81 15 1e-3
*Lcm2 83 84 3.5e-6
*Rcm2 84 15 1k

*ZERO AT 40 MHz
*Gcm3 15 85 83 15 1e-3
*Lcm3 85 86 3.5e-6
*Rcm3 86 15 1k

*ZERO AT 40 MHz
*Gcm4 15 91 85 15 1e-3
*Lcm4 91 92 3.5e-6
*Rcm4 92 15 1k

*POLE AT 30 MHz
*Gcm5 15 87 91 15 1e-3
*Ccm5 87 15 5.6e-12
*Rcm5 87 15 1k

*POLE AT 30 MHz
*Gcm6 15 88 87 15 1e-3
*Ccm6 88 15 5.6e-12
*Rcm6 88 15 1k

*POLE AT 30 MHz
*Gcm7 15 89 88 15 1e-3
*Ccm7 89 15 5.6e-12
*Rcm7 89 15 1k

* GAIN STAGE & POLE AT 17 kHz
Ecc 98 0 99 0 1
Ess 52 0 50 0 1
Eref 15 0 POLY(2) 99 0 50 0 0 .5 .5 
G1 13 15 5 6 0.6
R7 13 15 3.125k
C3 13 15 3n
V1 98 14 1
V2 16 52 1
D1 13 14 DX
D2 16 13 DX

* POLE AT 334 MHz
G2 15 43 13 15 3.777m
R10 15 43 265
C5 15 43 1.8p

* POLE AT 665 MHz
G3 15 53 43 15 7.54m
R11 15 53 133
C6 15 53 1.8p

*POLE AT 665 MHz
G4 15 63 53 15 7.54m
R12 15 63 133
C7 15 63 1.8p

* BUFFER STAGE
Gbuf 15 32 63 15 1e-3
Rbuf 32 15 1000

* OUTPUT STAGE
Vo1 99 90 0
Vo2 51 50 0
R18 25 90 .02
R19 25 51 .02
Vcd 25 30 0
G6 25 90 99 32 50
G7 51 25 32 50 50
V4 26 25 -0.82
V5 25 27 -0.82
D5 32 26 Dx
D6 27 32 DX

Fo1 15 70 vcd 1
D7 70 71 DX
D8 72 70 DX
Vi1 71 15 0
Vi2 15 72 0

Erefq 96 0 30 0 1 
Iq 99 50 5.7m
Fq1 96 99 POLY(2) Vo1 Vi1 0 1 -1
Fq2 50 96 POLY(2) Vo2 Vi2 0 1 -1

.MODEL NMOD NJF VTO=0.13 BETA=100 IS=2.4e-13
.MODEL DX D(IS=1e-15) 
.ENDS